US05340701
49.5 g (0.45 mol) of sodium t-amylate are dissolved in 200 ml of isopentanol at 50° C., and 13 ml (0.11 mol) of trichloropyrimidine in 50 ml of isopentanol are added dropwise to this solution over the course of 30 minutes. After the mixture has been warmed at 50° C. for one hour, thin-layer chromatography shows that the mixture no longer contains any starting material. The solvent is removed on a rotary evaporator, and the residue is poured into 200 ml of water. The mixture is extracted three times with 150 ml of toluene in each case, and the organic phases are dried using MgSO4 and filtered. Removal of the solvent gives 37.5 g (98.7% of theory) of 2,4,6-tris(3-methylbut-1-oxy)pyrimidine.

reactant | trichloropyrimidine | 0.11 mol, 13 ml | ClC=1C(=NC(=NC1)Cl)Cl | C4HCl3N2
reactant | isopentanol | 200 ml | C(CC(C)C)O | C5H12O
reactant | isopentanol | 50 ml | C(CC(C)C)O | C5H12O
product | 2,4,6-tris(3-methylbut-1-oxy)pyrimidine | 37.5 g, 98.7% | CC(CCOC1=NC(=CC(=N1)OCCC(C)C)OCCC(C)C)C | C19H34N2O3
